US08227500B2
4-Cyano-1H-pyrrole-3-carboxylic acid
To a solution of 4-cyano-1H-pyrrole-3-carboxylic acid ethyl ester (1.1 g) in methanol (65 mL) was added 1 mol/L aqueous sodium hydroxide solution (65 mL), and this mixture was stirred at 50° C. for 5 hours. To this reaction mixture was added 1 mol/L hydrochloric acid, this mixture was extracted with ethyl acetate. This organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. This obtained residue was washed with diethyl ether to give the title compound (0.72 g).

reactant | 4-cyano-1H-pyrrole-3-carboxylic acid ethyl ester | 1.1 g | C(C)OC(=O)C1=CNC=C1C#N | C8H8N2O2
reactant | sodium hydroxide | 1 mol/L, 65 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methanol | 65 mL | CO | CH4O
product | 4-Cyano-1H-pyrrole-3-carboxylic acid | 0.72 g | C(#N)C=1C(=CNC1)C(=O)O | C6H4N2O2
